US03953499
A mixture of 35.9 g. of 1-chloro-7,10,13-nonadecatriyne dissolved in 200 ml. of pyridine and 5.4 g. of 5% palladium on barium sulfate was shaken in an atmosphere of hydrogen in a Parr hydrogenator for 1.25 hrs. (pressure drop 21.5 lb.; 0.1 mole hydrogen = 8.5 lb.), then the reaction mixture was poured into water and extracted with ether. The ether extract was washed several times with water, then with dilute hydrochloric acid, followed by saturated aqueous sodium chloride. The ether solution was then dried over sodium sulfate, and evaporated under reduced pressure leaving a residue comprising 1-chloro-cis,cis,cis-7,10,13-nonadecatriene which was further purified by distillation on a shaking short path distillation apparatus, giving 27 g. of 1-chloro-cis,cis,cis-7,10,13--nonadecatriene collected at a jacket temperature of 180°-190°/0.005 mm.

reactant | 1-chloro-7,10,13-nonadecatriyne | ClCCCCCCC#CCC#CCC#CCCCCC | C19H27Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.1 mole | [H][H] | H2
catalyst | palladium on barium sulfate | [Pd] | Pd
solvent | water | O | H2O
product | 1-chloro-cis,cis,cis-7,10,13-nonadecatriene | ClCCCCCC\C=C/C\C=C/C\C=C/CCCCC | C19H33Cl
